US07977370B2
N,N-dimethyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)-1-(thiophen-2-yl)cyclohexanamine (Example No. 4)
3-(2-pyridin-4-ylethyl)-1H-indole (667 mg, 3 mmol, synthesis cf. WO2008009415, indole unit Ind-14) together with 4-(dimethylamino)-4-(thiophen-2-yl)cyclohexanone (671 mg, 3 mmol, synthesis cf. WO2008009415, ketone unit Ket-12) was dissolved in abs. dichloromethane (45 ml) and mixed with trifluoromethane sulphonic acid (0.660 ml, 7.43 mmol). The batch was stirred for 64 h at RT, and a brown oil separated out. For work up the reaction solution was mixed with 1N NaOH (30 ml) and methanol (10 ml). The mixture was stirred a further 60 min. After separation of the phases the aqueous phase was extracted with dichloromethane (3×10 ml). The combined organic extracts were dried over Na2SO4 and then concentrated to low volume. The raw product obtained (1.33 g) was purified by column chromatography [silica gel 60 (100 g); ethyl acetate/methanol 10:1, (1650 ml), ethyl acetate/methanol (5:1, (600 ml)].

reactant | 3-(2-pyridin-4-ylethyl)-1H-indole | 3 mmol, 667 mg | N1=CC=C(C=C1)CCC1=CNC2=CC=CC=C12 | C15H14N2
reactant | 4-(dimethylamino)-4-(thiophen-2-yl)cyclohexanone | 3 mmol, 671 mg | CN(C1(CCC(CC1)=O)C=1SC=CC1)C | C12H17NOS
reactant | trifluoromethane sulphonic acid | 7.43 mmol, 0.660 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)-1-(thiophen-2-yl)cyclohexanamine | CN(C1(CCC(CC1)(C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)C=1SC=CC1)C | C42H43N5S
